US07943609B2
tert-Butyl (2S)-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (2.54 g, 6.77 mmol) was dissolved in 2.2 M HCl in EtOH (50 mL) and the solution was heated to reflux for 15 minutes. N2 was bubbled through the reaction for 15 minutes, and the remaining volatiles were removed under reduced pressure. The resulting material was partitioned between dichloromethane and water. The organic layer was discarded and the aqueous layer was treated with concentrated NH4OH solution to adjust to pH 11. The aqueous layer was extracted with dichloromethane (3×100 mL), and the combined organic layers were washed with brine. Triethylamine (4 mL) was then added to the solution and it was stirred at ambient temperature overnight. The reaction was washed successively with water (2×100 mL) and brine. The organic layer was dried over Na2SO4, filtered, and concentrated to give an orange foam. Chromatography (SiO2, 20-50% CMA/CHCl3) gave (11S)-11-methyl-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline (1.06 g) as an orange foam.

reactant | tert-Butyl (2S)-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 6.77 mmol, 2.54 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)[C@H](CNC(OC(C)(C)C)=O)C | C19H23ClN4O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | HCl | 2.2 M | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | (11S)-11-methyl-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline | 1.06 g | C[C@H]1CNCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C14H14N4
